US07767660B2
Step 1: methyl 3-cyclohex-1-en-1-yl-1H-indole-6-carboxylate
A solution (0.1 M) of 3-cyclohex-1-en-1-yl-1H-indole-6-carboxylic acid (prepared as described in published International patent application WO 2004/087714) in dry DMF was cooled to 0° C. and treated with K2CO3 (1.05 eq). A solution (3 M) of MeI (1.05 eq) in DMF was then added over 0.5 h and the temperature was raised to 20° C. After 18 h the reaction was quenched with aqueous HCl (1 N) and diluted with EtOAc. The organic phase was separated and washed several times with aqueous HCl (1 N), then with brine. The dried organics were concentrated to give the title compound (99%) as a solid; (ES+) m/z 256 (M+H)+.

reactant | 3-cyclohex-1-en-1-yl-1H-indole-6-carboxylic acid | 0.1 M | C1(=CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H15NO2
reactant | K2CO3 | 1.05 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 3 M, 1.05 eq | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 3-cyclohex-1-en-1-yl-1H-indole-6-carboxylate | 99% | C1(=CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)OC | C16H17NO2
